US07812040B2
cis-3-(Morpholin-4-ylmethyl)cyclobutanol.
A solution of intermediate 39, 3-(Morpholin-4-ylcarbonyl)cyclobutanone (1.1 g, 6.1 mmol) in absolute THF (10 mL) was added dropwise to a solution of LiAlH4 (0.46 g, 12 mmol) in absolute THF (10 mL) in argon under stirring. The mixture was refluxed under stirring for 1 h, cooled, and 10 N NaOH (0.5 mL) and water (2.5 mL) were added. The organic layer was decanted, and the water layer was extracted with THF (2×5 mL). The organic layers were evaporated to give the title compound as colorless oil in ˜100% (1.1 g) yield. 1H-NMR (400 MHz)-data (dmso-d6): 4.8-4.95 (d, 1H, J=6.4 Hz, OH), 3.8 (ddddd, 4H, J=5.3 Hz, CHOH), 3.48-3.58 (m, 4H, CH2OCH2), 2.22-2.35 (m, 8H, (CH2)3N, cyclobutylCHH), 1.77-1.90 (m (ttt), 1H, CHCH2N), 1.36-1.47 (m, 2H, cyclobutylCHH).

reactant | 3-(Morpholin-4-ylcarbonyl)cyclobutanone | 6.1 mmol, 1.1 g | N1(CCOCC1)C(=O)C1CC(C1)=O | C9H13NO3
reactant | LiAlH4 | 12 mmol, 0.46 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 10 N, 0.5 mL | [OH-].[Na+]
reactant | water | 2.5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | cis-3-(Morpholin-4-ylmethyl)cyclobutanol | N1(CCOCC1)C[C@H]1C[C@H](C1)O | C9H17NO2
